US04360645
A 100-ml stainless steel-lined tube charged with 38.5 g (0.14 mol) of perfluoro-4-oxa-6-heptenenitrile was heated at 140° while oxygen was added incrementally (over 5.5 h) until reaction was complete. Fractionation of the liquid products gave perfluoro-6,7-epoxy-4-oxaheptanenitrile, bp 65°-67°, 15.7 g (39%). IR (CCl4); 4.40 (CN), 6.47 (epoxide) and 8-9μ (CF, C-O). NMR (CCl4): -87.5 (m, 2F, OCF2), -109.2 (t, JFF 4.7 Hz, 2F, CF2CN), and -156.7 ppm (d of d of m, JFF 18.7, 16.7 Hz, 1F, CF) with AB groupings for ring CF2 at -10347 and -10389 Hz (d of t, JFF 18.7, 9.5 Hz, 1F) and -10570 and -10610 Hz (d, JFF 16.7 Hz, 1F) and for CF 2 adjacent to epoxide ring at -7376, -7529, -7556, and -7707 Hz (m, 2F).

reactant | perfluoro-4-oxa-6-heptenenitrile | 0.14 mol, 38.5 g | FC(C#N)(C(OC(C(=C(F)F)F)(F)F)(F)F)F | C6F9NO
reactant | oxygen | O=O | O2
product | perfluoro-6,7-epoxy-4-oxaheptanenitrile | FC(C#N)(C(OC(C1(C(O1)(F)F)F)(F)F)(F)F)F | C6F9NO2
